US08809324B2
3a-((R)-6,6-Dimethyl-4,4-dioxo-5-{4-[1-(3,3,3-trifluoropropyl)piperidin-4-yl]-phenyl}-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino)-hexahydro-2,5-methanopentalene-2-carboxamide
DIPEA (75 mg) and 3-bromo-1,1,1-trifluoropropane (500 mg) were added to a solution of 3a-[(R)-6,6-dimethyl-4,4-dioxo-5-(4-piperidin-4-yl-phenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide (73 mg) in DMF (1.5 mL), and the mixture was stirred overnight. The resulting mixture was purified in a purification laboratory by means of preparative HPLC. This gave the product with a molecular weight of 596.7 g/mol (C29H39F3N4O4S); MS (ESI): m/e=597 (M+H+).

reactant | DIPEA | 75 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-1,1,1-trifluoropropane | 500 mg | BrCCC(F)(F)F | C3H4BrF3
reactant | 3a-[(R)-6,6-dimethyl-4,4-dioxo-5-(4-piperidin-4-yl-phenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide | 73 mg | CC1([C@H](S(N=C(O1)NC12CC3(CC2CC(C1)C3)C(=O)N)(=O)=O)C3=CC=C(C=C3)C3CCNCC3)C | C26H36N4O4S
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3a-((R)-6,6-Dimethyl-4,4-dioxo-5-{4-[1-(3,3,3-trifluoropropyl)piperidin-4-yl]-phenyl}-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino)-hexahydro-2,5-methanopentalene-2-carboxamide | CC1([C@H](S(N=C(O1)NC12CC3(CC2CC(C1)C3)C(=O)N)(=O)=O)C3=CC=C(C=C3)C3CCN(CC3)CCC(F)(F)F)C | C29H39F3N4O4S
